US05135955
4-Butoxy-N,N,N,α-tetramethylbenzenepropanaminium iodide
To an ether solution containing 1.0 g of 4-butoxy-N,N,α-trimethylbenzenepropanamine (the free base of the compound prepared in Example 41B) was added 2.5 ml of iodomethane and, over a period of 4 hours an oil separated from the solution. The solvent was evaporated and the residue was crystallized from ethyl acetate to give 0.48 g (31% yield) of the desired titled compound, m.p. 160°-165° C.

reactant | 4-butoxy-N,N,α-trimethylbenzenepropanamine | 1.0 g | C(CCC)OC1=CC=C(C=C1)CCC(N(C)C)C | C16H27NO
reactant | iodomethane | 2.5 ml | IC | CH3I
solvent | ether | CCOCC | C4H10O
product | 4-Butoxy-N,N,N,α-tetramethylbenzenepropanaminium iodide | 0.48 g, 31% yield | [I-].C(CCC)OC1=CC=C(C=C1)CCC([N+](C)(C)C)C | InChI=1S/C17H30NO.HI/c1-6-7-14-19-17-12-10-16(11-13-17)9-8-15(2)18(3,4)5;/h10-13,15H,6-9,14H2,1-5H3;1H/q+1;/p-1
